US08895572B2
Step F: tert-Butyl{(5R,6S,8S)-5-methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-yl}carbamate
To a solution of crude tert-butyl[(3S,5S,6R)-2-hydrazinylidene-6-methyl-5-phenylpiperidin-3-yl]carbamate (99 mg, 0.31 mmol) in dichloromethane (3.1 mL) was added 1-(trifluoromethyl)cyclopropanecarboxylic acid (58 mg, 0.37 mmol), 1-hydroxy-7-azabenzotriazole (4.3 mg, 0.031 mmol), N-methylmorpholine (82 μL, 0.75 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (72 mg, 0.37 mmol). The mixture was stirred 1 h. Saturated aqueous bicarbonate was added, and the resulting mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Acetonitrile (12.5 mL) and glacial acetic acid (18 μL, 0.31 mmol) were added and the resulting mixture stirred at 70° C. for 90 min. Saturated aqueous bicarbonate was added, and the resulting mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated giving the crude title compound. MS 437.2 (M+1),

reactant | tert-butyl[(3S,5S,6R)-2-hydrazinylidene-6-methyl-5-phenylpiperidin-3-yl]carbamate | 0.31 mmol, 99 mg | C(C)(C)(C)OC(N[C@@H]1C(N[C@@H]([C@@H](C1)C1=CC=CC=C1)C)=NN)=O | C17H26N4O2
reactant | 1-(trifluoromethyl)cyclopropanecarboxylic acid | 0.37 mmol, 58 mg | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | 1-hydroxy-7-azabenzotriazole | 0.031 mmol, 4.3 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 0.75 mmol, 82 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.37 mmol, 72 mg | Cl.CN(CCCN=C=NCC)C
reactant | bicarbonate | C([O-])(O)=O
reactant | acetic acid | 0.31 mmol, 18 μL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 3.1 mL | ClCCl | CH2Cl2
solvent | Acetonitrile | 12.5 mL | C(C)#N | C2H3N
product | tert-Butyl{(5R,6S,8S)-5-methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-yl}carbamate | C(C)(C)(C)OC(N[C@@H]1C=2N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)C(=NN2)C2(CC2)C(F)(F)F)=O | C22H27F3N4O2
